US04038414
3.0 g (0.012 mol) of 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxypropane are dissolved in 25 ml of acetonitrile and added dropwise to a boiling stirred solution of 0.96 g (0.011 mol) of β-aminobutyronitrile in 20 ml of acetonitrile. The mixture is stirred for 20 hours under reflux, the solvent is removed by distillation under reduced pressure and the oil which remains is partitioned between 150 ml of 0.1 N hydrochloric acid and 100 ml of ethyl acetate. The hydrochloric acid extract is separated off, rendered alkaline with sodium carbonate and extracted four times with 50 ml of ethyl acetate at a time. The organic phases are dried over sodium sulphate and evaporated under reduced pressure. The resulting oil solidifies on cooling to give crystals of 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-(2-cyano-1-methylethyl-amino)-propane of melting point 122°-123° C.

reactant | 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxypropane | 0.012 mol, 3.0 g | COC(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C13H15NO4
reactant | β-aminobutyronitrile | 0.011 mol, 0.96 g | NC(CC#N)C | C4H8N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-(2-cyano-1-methylethyl-amino)-propane | COC(=O)NC=CC1=CC=C(OCC(CNC(CC#N)C)O)C=C1 | C17H23N3O4
